US05998461
N-[2-(8,9-Dihydro-7H-furo[3,2-f]chromen-1-yl)ethyl]-N'-methylurea
To a suspension of 0.01 mole of 2-(8,9-dihydro-7H-furo[3,2-f]chromen-1-yl)ethylamine hydrochloride in five (5) ml of pyridine, 0.011 mole of methylisocyanate is added dropwise with stirring. The reaction mixture is stirred for one (1) hour at 80° C., then poured on ice/water. After classical work up and purification, the title compound is obtained.

reactant | 2-(8,9-dihydro-7H-furo[3,2-f]chromen-1-yl)ethylamine hydrochloride | 0.01 mole | Cl.C1(=COC=2C1=C1CCCOC1=CC2)CCN
reactant | methylisocyanate | 0.011 mole | CN=C=O | C2H3NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[2-(8,9-Dihydro-7H-furo[3,2-f]chromen-1-yl)ethyl]-N'-methylurea | C1(=COC=2C1=C1CCCOC1=CC2)CCNC(=O)NC | C15H18N2O3
